US08859687B2
Step 2: 4′-(4-bromomethylphenyl)-2,2′:6,2″-terpyridine
7.07 g 4′-methylphenyl-2,2′:6,2″-terpyridine, 0.28 g AIBN and 4.67 g N-Bromsuccinimide were dissolved in 70 ml benzene and heated under reflux for 6 hours.

reactant | 4′-methylphenyl-2,2′:6,2″-terpyridine | 7.07 g | CC1=CC(=NC=C1)C1=NC(=CC=C1C1=CC=CC=C1)C1=NC=CC=C1 | C22H17N3
reactant | AIBN | 0.28 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | N-Bromsuccinimide | 4.67 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | 4′-(4-bromomethylphenyl)-2,2′:6,2″-terpyridine | BrCC1=CC=C(C=C1)C1=CC(=NC=C1)C1=NC(=CC=C1)C1=NC=CC=C1 | C22H16BrN3
